US03953457
Ethyl s-triazolo(4,3-a)quinoline-1-carboxylate was prepared by reacting diethyl oxalate with 2-hydrazinoquinoline, in the manner described in Examples 1 and 2.

reactant | diethyl oxalate | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-hydrazinoquinoline | N(N)C1=NC2=CC=CC=C2C=C1 | C9H9N3
product | Ethyl s-triazolo(4,3-a)quinoline-1-carboxylate | C1(=NN=C2N1C1=CC=CC=C1C=C2)C(=O)OCC | C13H11N3O2
